US07091214B2
1-(2-Aminoethyl)-2-butyl-7-(pyridin-3-yl)-1H-imidazo[4,5-c]quinolin-4-amine (2.00 g, 5.50 mmol) was treated with triethylamine (1.01 mL, 7.26 mmol) and isobutyryl chloride (0.64 mL, 6.10 mmol) according to the method described in Part B of Examples 372–376. The crude product was recrystallized from isopropanol (4 mL/g) and then triturated with acetonitrile (12.5 mL/g), isolated by filtration, and dried overnight in a drying oven to provide 0.61 g of N-{2-[4-amino-2-butyl-7-(pyridin-3-yl)-1H-imidazo[4,5-c]quinolin-1-yl]ethyl}-2-methylpropanamide as a white solid, mp 228–230° C.

reactant | 1-(2-Aminoethyl)-2-butyl-7-(pyridin-3-yl)-1H-imidazo[4,5-c]quinolin-4-amine | 5.50 mmol, 2.00 g | NCCN1C(=NC=2C(=NC=3C=C(C=CC3C21)C=2C=NC=CC2)N)CCCC | C21H24N6
reactant | triethylamine | 7.26 mmol, 1.01 mL | C(C)N(CC)CC | C6H15N
reactant | isobutyryl chloride | 6.10 mmol, 0.64 mL | C(C(C)C)(=O)Cl | C4H7ClO
product | N-{2-[4-amino-2-butyl-7-(pyridin-3-yl)-1H-imidazo[4,5-c]quinolin-1-yl]ethyl}-2-methylpropanamide | 0.61 g | NC1=NC=2C=C(C=CC2C2=C1N=C(N2CCNC(C(C)C)=O)CCCC)C=2C=NC=CC2 | C25H30N6O
